US09079866B2
5-(3-Fluoro-2′-{[(2R)-2-methylpiperazin-1-yl]sulfonyl}biphenyl-4-yl)pyrimidin-2-amine
The title compound was prepared by dissolving (R)-tert-butyl 4-((4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)-3-methylpiperazine-1-carboxylate (42 mg, 0.08 mmol) in a 50/50 mixture of DCM/TFA (1 mL) and allowing it to stir at rt for 2 h. The reaction mixture was concentrated to dryness and the residue subjected to HPLC purification to give the title compound (29 mg, 85%). MS (ESI): mass calcd. for C21H22FN5O2S, 427.15; m/z found, 428.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.56 (d, J=1.4, 2H), 8.16 (dd, J=8.0, 1.4, 1H), 7.65-7.58 (m, 1H), 7.56-7.49 (m, 1H), 7.48-7.39 (m, 1H), 7.38-7.31 (m, 3H), 5.18 (s, 2H), 3.64-3.52 (m, 1H), 2.99-2.87 (m, 2H), 2.81-2.69 (m, 1H), 2.61-2.41 (m, 4H), 1.18 (d, J=6.8, 3H).

reactant | (R)-tert-butyl 4-((4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)-3-methylpiperazine-1-carboxylate | 0.08 mmol, 42 mg | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C)F | C26H30FN5O4S
reactant | DCM TFA | 1 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 5-(3-Fluoro-2′-{[(2R)-2-methylpiperazin-1-yl]sulfonyl}biphenyl-4-yl)pyrimidin-2-amine | 29 mg, 85% | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)N1[C@@H](CNCC1)C | C21H22FN5O2S
